US05739742
A bismuth oxide powder (whose average particle size is about 2 to 3 μm) and an antimony oxide powder (whose average particle size is about 2 to 3 μm) were mixed at a weight ratio of 85:15. The blended powder was heat treated at a temperature of 550° C. for 5 hrs. in the air. Further, bismuth oxide fine particles (whose average particle size is about 2 to 3 μm) and a chromium oxide fine powder (whose average particle size is about 0.5 to 1.5 μm) were mixed at a weight ratio of 75:25. The mixed powder was heat treated at a temperature of 600° C. for 10 min. in the air. A bismuth oxide powder (whose average particle size is about 2 to 3 μm) and a boron oxide fine powder (whose average particle size is about 2 to 3 μm) were mixed at a weight ratio of 93:7. The mixed powder was heat treated at a temperature of 600° C. for 10 min. in the air. These were mixed at a weight ratio of 3.0:0.3:0.3 and ground fine for 18 hrs. by means of stabilizing zirconia balls in a monomalon pot. Consequently, a synthetic powder of bismuth oxide/antimony oxide/chromium oxide/boron oxide synthetic powder (whose average particle size is about 2 to 3 μm) was obtained.

reactant | bismuth oxide | [Bi]=O
reactant | antimony oxide | [Sb]=O
reactant | chromium oxide | [O-2].[Cr+3].[O-2].[O-2].[Cr+3]
reactant | boron oxide | [B]=O | BO
product | bismuth oxide antimony oxide chromium oxide boron oxide | [Bi]=O.[Sb]=O.[O-2].[Cr+3].[O-2].[O-2].[Cr+3].[B]=O | InChI=1S/BO.Bi.2Cr.5O.Sb/c1-2;;;;;;;;;/q;;2*+3;;;3*-2;
